US07678801B2
56a) 4-Methyl-N-propyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide
To 4-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid (524 mg, 2 mmol, 1 eq) was added HBTU (642 mg, 2 mmol, 1 eq) in DMF (5 mL). DIPEA (700 uL, 4 mmol, 2 eq) was then added in 100 uL portions. After 10 min propylamine (328 uL, 4 mmol, 2 eq) was then added and the mixture was stirred overnight at room temperature. The solvent was then removed in vacuo. The residue was then dissolved in chloroform and purified by aminopropyl SPE: LC-MS m/z 304 (M+H)+, 3.37 min (ret time).

reactant | 4-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid | 2 mmol, 524 mg, 1 eq | CC1=C(C=C(C(=O)O)C=C1)B1OC(C(O1)(C)C)(C)C | C14H19BO4
reactant | HBTU | 2 mmol, 642 mg, 1 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 4 mmol, 700 uL, 2 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | propylamine | 4 mmol, 328 uL, 2 eq | C(CC)N | C3H9N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-Methyl-N-propyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide | CC1=C(C=C(C(=O)NCCC)C=C1)B1OC(C(O1)(C)C)(C)C | C17H26BNO3
